Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I have a long history of depression and it's been getting 
really
bad the last few months."
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
Per Dr. ___ ___ ED Initial Psychiatry Consult
note:

"Patient is ___ (about to be a senior) in treatment
during school year with outpatient therapist and psychiatrist 
but
last seen several months ago) who self-presented to ED with a
friend due to worsening urges and actions of self injurious
behavior in last two days, culminating in intense wish to die
with plan to kill herself by overdose on medications
(specifically, her clonidine, which she doesn't take every day).
Significant neurovegetative signs have been going on for more
than a month including ___ of energy, decreased motivation.
Notes has lost enjoyment of food, social interactions, and
classes. Does eat but poor appetite; reports feeling unable to
get out of bed in the morning, and has been missing classes as
she feels so fatigued and unmotivated. She has been having
trouble in classes over last month as she has felt worse, and
describes always feeling exhausted and needing to sleep, but
never feeling refreshed. NO clear stressor identified; overall
enjoys classes, had been looking forward to senior year, no
change in substance use. Does have trauma hx but does not see it
as significant event; denies flashbacks, dissociation, or
hypervigilance. Denies any sx of paranoia, AH, VH, IOR. No
grandiosity, racing thoughts, decreased need to sleep, goal
directed behavior. Feels close to mother, feels guilty about
worrying her mother and suspects mother knows she's been doing
worse, but hasn't explicitly told mother she's gotten suicidal
(mother also feels guilty about having "passed on" her own
depression). Feels she's never felt so close to killing herself 
-
sees it as some sort of a relief - feels very hopeless, tired of
being sick, caught off guard by rapid decline (hasn't seen
therapist or NP in months). Has not gotten any relief from
increased self injurious behavior, and in fact feels worse after
cutting/ burning self."

In the ED, pt remained in good behavioral control and did not
require physical/chemical restraints.

On interview today, pt reports a "long history of depression"
with worsening depressive sxs in the past few months. Yesterday,
woke up and began to cry uncontrollably, and had thoughts about
"not wanting to be a person", not wanting to do anything, which
led to SI with plan to take a handful of clonidine tablets.
Shares that the idea of taking clonidine actually crossed her
mind as of 2 days ago. Friend ___ had been on Deac4 before, 
and
when pt called ___ he told her that being on Deac4 should be
helpful and walked over with her to the ED.

Currently reports ongoing low mood, thoughts about SI by
overdosing on clonidine, feeling anhedonic and amotivated, and
thoughts about "not wanting to be alive".

Shares that mood has been "numb and depressed" for the last 3
months, "very down". Anhedonia as she usually finds working as 
an
___, giving ___, helping with ___,
and working at ___ at school all enjoyable 
activities,
but have been just going through the motions due to feeling
obligated. Endorses weight gain in past 6 months, due to
combination of having low energy and not going to the gym 
anymore
as well as feeling unmotivated to do so; unsure of exactly how
much weight gain but significant enough that she has been having
trouble fitting into some of her clothes. Reports sleep
disturbance at baseline, was prescribed clonidine for insomnia
prn in ___ which was effective and pt only needed to take it
"once in a while" but since ___, has been having issues with
sleep induction (takes 35min+ to fall asleep) as well as sleep
maintenance (wakes up up to 4 times a night). Energy level has
been "none" for 1.5 months. Concentration "awful" for 1.5 
months,
which has led to worsening grades this semester since ___ 
(___), with concerns that she may fail a course (has
previously been a good student without ever having failed
courses). Endorses feeling low self-esteem, worthlessness/guilt
regarding weight gain and body image. Endorses recurrent 
thoughts
of death by OD'ing on clonidine as of 2 days ago. Remains 
hopeful
that she will get better with help.

=================
REVIEW OF SYSTEMS
=================
DEPRESSION
Per HPI

PSYCHOSIS
Denies the following:
- Delusions
- Thought broadcasting/insertion
- Hallucinations

MANIA
Denies the following:
- Elevated/irritable mood
- Increased activity/energy
- Decreased need for sleep
- Grandiosity
- Increased speech
- Racing thoughts
- Distractibility
- Increase in goal-directed activity/psychomotor agitation
- Social/economic indiscretion

ANXIETY
+ panic attacks, last one was in ___, no trigger, thought she
had asthma until it was diagnosed as anxiety/panic attack, used
to have up to twice a month, has not had one since going up on
venlafaxine dose
Denies the following:
- Phobias
- Rumination
- Obsessions
- Compulsions

PTSD
Denies the following:
- Nightmares
- Flashbacks
- Hypervigilence
- Avoidance
  
MEDICAL
Positive for:
+ bilateral fronttemporal mild headache which pt feels would be
improve with water
Otherwise, a 10-point ROS was negative, including:
- Fever
- Eye pain
- Hearing deficit
- Chest pain
- Difficulty breathing
- Abdominal pain
- Constipation
- Diarrhea
- Musculoskeletal pain
 
Past Medical History:
========================
PAST PSYCHIATRIC HISTORY
========================
- Past diagnoses: MDD (diagnosed ___
- Hospitalizations: denies
- Psychiatrist: ___ NP @ ___ 
___
- Therapist: none currently (previously saw ___ at 
___,
last seen 6 months ago)
- Medication and ECT trials: 
     - lamotrigine, "felt like a zombie"
- Self-injurious behaviors: from ___ to ___ grade, superficial
cuts to forearms, upper arms, and thighs; in ___ accidentally
burned arm on the oven and then "went back and purposely burned
again"
- Suicide attempts: denies
- Harm to others: denies
- Trauma: raped in freshman year of high school, does not recall
much as "I was drunk and blacked out"

====================
PAST MEDICAL HISTORY
====================
- PCP: ___ @ ___
- Hx of head trauma: concussion (age ___, soccer ball hit her in
back of head, LOC)
- Hx of seizure: denies
- PMHx: denies

 
Social History:
=====================
SUBSTANCE USE HISTORY
=====================
- EtOH: drinks every other day to every day, 1 bottle of wine in
one sitting or 8 beers, endorses blackouts in high school,
endorses blacking out twice in freshman year of college while 
out
partying; sometimes drinks alone; last drink was 2 days ago, had
about 9 drinks at a beach party; feels she should cut back,
denies withdrawal sxs; denies ___
- Tobacco: about once every 2 weeks, will have one cigarette 
with
friends while drinking, declines nicotine replacement
- Cannabis: started smoking in freshman year in high school,
smoking once every few months, however in ___ year had one 
use
that resulted in anxiety and since then has not smoked
- Illicits: cocaine 1x ___

================
FORENSIC HISTORY
================
- Arrests: denies
- Convictions and jail terms: denies
- Current status (pending charges, probation, parole): denies

==============
SOCIAL HISTORY
==============
- B/R: born in ___, raised in ___
- Family: mother, father, older brother (age ___, reports "okay"
childhood, denies any hx of abuse/trauma
- Relationship status: no current partner, 2 past long-term
relationships with men
- Primary supports: mother (in emergency), friend ___
- ___ dorm
- Education: currently ___ at ___ (rising senior), majoring in Biomedical Engineering,
grades have been good in freshman/sophomore years, but this
current semester may fail a class for the first time
- Employment/income: full-time student, part-time job at an
electrome___ (part of campus work-study)
- Spiritual: denies
- Access to weapons: denies
- Military history: ___
Family History:
==========================
FAMILY PSYCHIATRIC HISTORY
==========================
- Fam Dx: paternal grandmother with borderline personality
disorder
- Fam Hospitalizations: denies
- Fam Treatment Hx/Med Trials: denies
- Fam Hx Suicide: denies
 
Physical Exam:
====
EXAM
====
Vital Signs:
T 98.8, BP 134/90, RR 17, SpO2 98%RA

GENERAL
- HEENT: 
     - normocephalic, atraumatic
     - moist mucous membranes, oropharynx clear, supple neck
     - no scleral icterus
- Cardiovascular: 
     - regular rate and rhythm, S1/S2 heard, no
murmurs/rubs/gallops           
     - distal pulses ___ throughout
- Pulmonary: 
     - no increased work of breathing
     - lungs clear to auscultation bilaterally
     - no wheezes/rhonchi/rales
- Abdominal: 
     - non-distended, bowel sounds normoactive
     - no tenderness to palpation in all quadrants
     - no guarding, no rebound tenderness
- Extremities: 
     - warm and well-perfused
     - no edema of the limbs
- Skin: 
     - no rashes or lesions noted

NEUROLOGICAL
- Cranial Nerves:
     - I: olfaction not tested
     - II: PERRL 4 to 2 mm, both directly and consentually; 
brisk
bilaterally, VFF to confrontation
     - III, IV, VI: EOMI without nystagmus
     - V: facial sensation intact to light touch in all
distributions
     - VII: no facial droop, facial musculature symmetric and 
___
strength in upper and lower distributions, bilaterally
     - VIII: hearing intact to finger rub bilaterally
     - IX, X: palate elevates symmetrically
     - XI: ___ strength in trapezii and SCM bilaterally
     - XII: tongue protrudes in midline
- Motor: 
     - normal bulk and tone bilaterally
     - no abnormal movements, no tremor
     - strength ___ throughout
- Sensory: 
     - no deficits to fine touch throughout
- DTRs: 
     - 2 and symmetrical throughout
- Coordination: 
     - normal on finger to nose test, no intention tremor noted
- Gait: 
     - good initiation
     - narrow-based, normal stride and arm swing
     - able to walk in tandem without difficulty
     - Romberg absent

COGNITION 
- Wakefulness/alertness: 
     - awake and alert
- Attention: 
     - MOYb with 0 errors
- Orientation: 
     - oriented to person, time, place, situation
- Executive function (go-no go, Luria, trails, FAS): 
     - not tested
- Memory: 
     - ___ registration
     - ___ spontaneous recall after 5 min
     - long-term grossly intact
- Fund of knowledge: 
     - consistent with education
     - intact to last 3 presidents
- Calculations: 
     - $1.75 = 7 quarters
- Abstraction: 
     - "Don't judge a book by its cover" = "Don't just people by
their appearance"
     - bicycle/train: vehicles
- Visuospatial: 
     - not assessed
- Language: 
     - native ___ speaker, no paraphasic errors, appropriate
to conversation

MENTAL STATUS
- Appearance: ___ yo Caucasian woman appearing stated age, nose
ring, dirty blonde hair tied into a ponytail, tattoo on L upper
arm, well groomed, good hygiene, wearing hospital gown,
adequately hydrated/nourished, no acute distress
- Behavior: sitting in chair, appropriate eye contact, no
psychomotor agitation/retardation
- Attitude: cooperative, engaged, friendly
- Mood: "numb and depressed"
- Affect: euthymic, full range, appropriately reactive
- Speech: normal rate, volume, and prosody
- Thought process: linear, coherent, goal-oriented, no loose
associations
- Thought Content:
     - Safety: Denies SI/HI   
     - Delusions: No evidence of paranoia, etc. 
     - Obsessions/Compulsions: No evidence based on current
encounter
     - Hallucinations: Denies AVH, not appearing to be attending
to internal stimuli
- Insight: fair
- Judgment: fair

 
Pertinent Results:
___ 02:12PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 02:12PM URINE  BLOOD-MOD* NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 
LEUK-NEG
___ 02:12PM URINE  RBC-13* WBC-1 BACTERIA-NONE YEAST-NONE 
EPI-<1
___ 02:12PM URINE  MUCOUS-RARE*
___ 11:40AM URINE  HOURS-RANDOM
___ 11:40AM URINE  HOURS-RANDOM
___ 11:40AM URINE  HOURS-RANDOM
___ 11:40AM URINE  UCG-NEGATIVE
___ 11:40AM URINE  UHOLD-HOLD
___ 11:40AM URINE  GR HOLD-HOLD
___ 11:40AM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 10:11AM   %HbA1c-5.1 eAG-100
___ 10:00AM   GLUCOSE-108* UREA N-6 CREAT-0.8 SODIUM-141 
POTASSIUM-5.2 CHLORIDE-103 TOTAL CO2-25 ANION GAP-13
___ 10:00AM   estGFR-Using this
___ 10:00AM   ALT(SGPT)-17 AST(SGOT)-36 LD(LDH)-387* ALK 
PHOS-64 TOT BILI-0.2
___ 10:00AM   ALBUMIN-4.6 CHOLEST-199
___ 10:00AM   TRIGLYCER-125 HDL CHOL-77 CHOL/HDL-2.6 
LDL(CALC)-97
___ 10:00AM   TSH-1.12
___ 10:00AM   FREE T4-1.06
___ 10:00AM   25OH VitD-57
___ 10:00AM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
tricyclic-NEG
___ 10:00AM   WBC-5.7 RBC-4.62 HGB-13.8 HCT-41.8 MCV-91 
MCH-29.9 MCHC-33.0 RDW-12.9 RDWSD-42.5
___ 10:00AM   NEUTS-67.0 ___ MONOS-7.3 EOS-0.2* 
BASOS-0.0 IM ___ AbsNeut-3.79 AbsLymp-1.42 AbsMono-0.41 
AbsEos-0.01* AbsBaso-0.00*
___ 10:00AM   PLT SMR-NORMAL PLT COUNT-269

 
Brief Hospital Course:
==========
ASSESSMENT
==========
___ is a ___ yo F, rising senior at ___, w/ PPHx 
of
MDD, no past inpatient admissions, no past SAs, who
self-presented to the ___ ED in the setting of worsening
depressive sxs over a period of the last 3 months, with acute
worsening of sxs with SI w/ plan to OD on clonidine.

Initial admission assessment notable for depressive sxs of
depressed mood, anhedonia, significant weight gain, low energy,
sleep disturbance (initiation and maintenance), poor
concentration (worsening grades, possibly about to fail a
course), worthlessness/guilt/low self-esteem, and recurrent
thoughts of death. Pt was also noted to be having one bottle of
wine on a daily basis. Initial exam noted for age-appearing 
woman
with no acute distress, future/goal oriented linear thought
process, euthymic affect w/ normal range and appropriate
reactivity, and fair insight/judgment. Diagnostically, thought 
to
be consistent with MDD, recurrent severe. 

===============
DSM 5 DIAGNOSES
=============== 
- major depressive disorder (recurrent, severe)
- alcohol use disorder

1) Legal/Safety: Pt was admitted to Deaconess ___ on ___ on a 
conditional voluntary basis, she signed the CV form which was 
accepted. She remained on 15 minute checks, initially was on 
restricted access to sharps due to concerns regarding history of 
self-injurious behavior of cutting, and on ___ patient was 
granted access to monitored sharps as she displayed good 
behavioral control and did not display any signs concerning for 
acute safety risk. Patient was granted access to staffed 
group-walks on ___. By time of discharge, patient continued 
to display good behavioral control, did not have concerns for 
safety, was denying SI/HI, and was actively engaged in safety 
planning.

2) Psychiatric:
# Major depressive disorder, recurrent severe: At time of 
admission, patient was positive for MDD as documented above 
(depressed mood, anhedonia, significant weight gain, low energy, 
sleep disturbance (initiation and maintenance), poor 
concentration (worsening grades, possibly about to fail a 
course), worthlessness/guilt/low self-esteem, and recurrent 
thoughts of death. She was provided individual, group, and 
milieu therapy, and was initiated/resumed on the following 
psychotropic medication regimen: venlafaxine XR 225mg po daily 
(home dose), quetiapine 12.5mg po qhs (started on ___ for 
insomnia, anxiety, mood), clonidine 0.1mg po qhs prn insomnia 
(home dose), and hydroxyzine 25mg po q6h prn insomnia/anxiety. 
She tolerated the pharmacotherapy well without notable side 
effects, and reported improvements in sleep induction and 
maintenance, as well as improvements in mood. On ___ dose of 
venlafaxine XR was increased to 300mg po daily and quetiapine 
was also increased to 25mg po qhs. Patient reported improved 
energy throughout the day, improved mood, motivation to 
participate in groups, good focus/concentration, and did not 
have overactivation side effects such as worsened anxiety or 
abnormal vital signs. Patient did not experience excessive 
grogginess/sedation in the morning despite increase with 
quetiapine, and was averaging about 7 hours of sleep a night, 
feeling well rested upon awakening around 06:30 AM on most 
mornings. By time of discharge, patient reported feeling well 
mood-wise, was displaying future/goal oriented thinking, no 
longer had neurovegative sxs of MDD, and was denying desires to 
harm self or participate in self-injurious behaviors.

3) Substance Use Disorders
# Alcohol use disorder: At time of admission, patient reported 
having a daily or every other day use of up to 1 bottle of wine, 
and reported feeling that she would like to cut back. Denied 
history of withdrawals, did endorse history of blackouts in the 
past since high school while drinking, and she was monitored 
closely regarding vital signs as well as subjective measures for 
withdrawal with plan to have a low threshold for initiating CIWA 
protocol. However, patient remained without signs/sxs concerning 
for alcohol withdrawal. She was provided counseling regarding 
the deleterious effects of ongoing alcohol use, its depressant 
properties, increased impulsive behaviors, and risks of alcohol 
use in the setting of having a depressive mood disorder. By time 
of discharge, patient was reporting improved insight regarding 
alcohol use disorder, and stated that she plans on abstaining 
from drinking and was also attending a Smart Recovery group. 

4) Medical:
# Birth control: Home medication ___ (desogestrel-ethinyl 
estradiol) 0.15-0.03mg po daily was continued.

5) Social/Dispo:
Attempts were made by the treatment team to have a therapist 
referral before discharge. Patient was encouraged to work with 
her school to get a referral for a local therapist. Treatment 
team was also actively engaged with working and providing 
coordinated care with her outpatient psychopharm provider in 
discussing treatment plan, as well as working with her school 
contact persons to help the patient strategize a safe/successful 
re-entry to both her campus dorm and for resuming her academic 
pursuits.

On the discharge day, Ms. ___ reported:"I am feeling good". 
She noticed improvement of her mood, reported better sleep (esp 
last night). She didn't have middle awakening.  She woke up at 
7am and felt rested.  She said that her discharge day will be 
busy: " a day full of meetings". Denied any side effects from 
her current meds. Reported good level of energy. Concentration 
and focus are good. She clearly denied S/H/Is.  She shared about 
positive plans for future. E.g., she already contacted her 
school (spoke with ___ about making extension on her class 
work. She also shared about plans how she is going to maintain 
safety. She listed appropriate steps in case of emergency.

=========================
RISK ASSESSMENT/PROGNOSIS
=========================
At the time of discharge, the following is the risk 
stratification for the patient:

Static Risk Factors:
- History of abuse 
- Chronic mental illness 
- History of substance abuse 
- Caucasian race 
- Age 
- Marital status (single)
 
Modifiable Risk Factors:
- modifiable risk factors that were present at time of admission 
have been addressed
 
Protective Factors:
- Help-seeking nature 
- Future-oriented viewpoint 
- Sense of responsibility to family 
- Life satisfaction 
- No irritability/agitation 
- No rage/anger/revenge 
- No recent loss 
- Reality testing ability 
- Good coping skills 
- Good problem-solving skills 
- Positive therapeutic relationship with outpatient providers
- ___ of suicidal ideation 
- Ability to tolerate rejection
- Strong social supports 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Apri (desogestrel-ethinyl estradiol) 0.15-0.03 mg oral DAILY 
2. Venlafaxine XR 225 mg PO DAILY depression 
3. CloNIDine 0.1 mg PO QHS:PRN insomnia 

 
Discharge Medications:
1.  QUEtiapine Fumarate 25 mg PO QHS depression/insomnia/anxiety 

RX *quetiapine 25 mg 1 tablet(s) by mouth at bedtime Disp #*10 
Tablet Refills:*0 
2.  Venlafaxine XR 300 mg PO DAILY depression 
RX *venlafaxine 150 mg 2 tablet(s) by mouth daily Disp #*20 
Tablet Refills:*0 
3.  Apri (desogestrel-ethinyl estradiol) 0.15-0.03 mg oral DAILY 
 
4.  CloNIDine 0.1 mg PO QHS:PRN insomnia 
RX *clonidine HCl 0.1 mg 1 tablet(s) by mouth at bedtime Disp 
#*10 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
major depressive disorder
 
Discharge Condition:
ambulatory: independently ambulates
VITALS
___ ___ Temp: 98.1 PO BP: 102/69 HR: 107 RR: 16 O2 sat: 
100% O2 delivery: R/A Dyspnea: N/A RASS: 0 Pain Score: ___ 

NEUROLOGIC
- Station: normal
- Gait: normal
- Tone: normal
- Strength: moves all four limbs at least against gravity
- Abnormal Movements: no tremors or adventitious movements

MENTAL STATUS
- Appearance: ___ yo Caucasian woman appearing stated age, nose 
ring, dirty blond hair tied into a ponytail, tattoo on LUE and 
RLE calf, well groomed, good hygiene, casual clothes, adequately 
hydrated/nourished, no acute distress
- Behavior: no psychomotor agitation or retardation, appropriate 
eye contact
- Attitude: cooperative, engaged, friendly
-Mood: "good"
- Affect: euthymic, mood-congruent, full range, appropriate to 
situation
- Speech: normal rate, volume, and prosody
- Thought process: linear, coherent, goal-oriented, no loose 
associations
- Thought Content:
     - Safety: denies SI/HI
     - Delusions: no evidence of paranoia, etc. 
     - Obsessions/Compulsions: no evidence based on current 
encounter
     - Hallucinations: denies AVH, not appearing to be attending 
to internal stimuli
- Insight: fair
- Judgment: fair

COGNITION 
- Wakefulness/alertness: awake and alert
- Attention: not formally assessed but attentive to interview
- Orientation: oriented to person, time, place, situation
- Executive function (go-no go, Luria, trails, FAS): not 
assessed
- Memory: not formally assessed but intact to interview
- Fund of Knowledge: appropriate
- Language: Native ___ speaker, no paraphasic errors, 
appropriate to conversation
 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___